US05017568
Methyl 17β-(t-butyldimethylsilyloxymethyl) -5α-androst-3-ene-3-carboxylate (500 mg), was dissolved in 150 ml acetone. Jones reagent was added until a red color persisted. Isopropanol was then added to quench excess Jones reagent. The acetone was decanted off and the residual chromium salts were then dissolved in water and washed 3 times with dichloromethane. The organic layers were combined and passed through a plug of florosil and concentrated to give 360 mg (99%) of 3-carbomethoxy-3-androstene-17β-carboxylic acid.

reactant | Methyl 17β-(t-butyldimethylsilyloxymethyl) -5α-androst-3-ene-3-carboxylate | 500 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C=C(CC[C@]3(C)[C@H]1CC2)C(=O)OC | C28H48O3Si
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Isopropanol | C(C)(C)O | C3H8O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-carbomethoxy-3-androstene-17β-carboxylic acid | 360 mg, 99% | C(=O)(OC)C1=CC2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C(=O)O | C22H32O4
